US06759428B2
To a solution of ethanol (10 mL), water (0.09 mL, 5 mmol), hydrogen chloride (9.6 mL, 1M in diethyl ether) was added a solution of 2-(benzhydrylidene-amino)-3-pyridin-4-yl-propionitrile (1.50 g, 5 mmol) in ethanol (10 mL). The reaction was stirred for 30 minutes, then concentrated to one third volume. The crude residue was triturated with five 30 mL portions of hexane:ether (4:1 vol:vol) and seven 30 mL portions of hexane. The precipitate was dried in vacuo to give 2-amino-3-pyridin-4-yl-propionitrile as an off white powder (1.05 g, 99%).

reactant | water | 5 mmol, 0.09 mL | O | H2O
reactant | hydrogen chloride | 1M, 9.6 mL | Cl | ClH
reactant | 2-(benzhydrylidene-amino)-3-pyridin-4-yl-propionitrile | 5 mmol, 1.50 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C#N)CC1=CC=NC=C1 | C21H17N3
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-amino-3-pyridin-4-yl-propionitrile | NC(C#N)CC1=CC=NC=C1 | C8H9N3
